US04618438
Preparation of Polyisobutenylsuccinic Anhydride
A mixture of 92.0 g (0.1 mole) of polyisobutene (Indopol H-100 ac. m. wt. 920) and 19.6 g. (0.2 mole) of maleic anhydride is heated at 205°-210° C. for 24 hours. During the first 2 hours of heating, the temperature remains at about 205° C., thereafter the heating range is 205°-210° C. The reaction mixture is allowed to cool to about 80° C. before the addition of 150 ml. of heptane and, after stirring well, is filtered. The filtrate is stripped at about 55° C. and 10 mm. pressure and finally at 150°-170° C. for about one hour to remove any trace of unreacted maleic anhydride. Weight of the dark, reddish, viscous reaction product is 93.6 g. In addition, 11.2 g. of unreacted maleic anhydride is recovered.

reactant | Indopol H-100 | CCC=C.C/C=C/C | 2C4H8
reactant | maleic anhydride | 0.2 mole | C1(\C=C/C(=O)O1)=O | C4H2O3
solvent | heptane | CCCCCCC | C7H16
product | Polyisobutenylsuccinic Anhydride | CC(=C)CC1CC(=O)OC1=O | C8H10O3
